US07074796B2
5b, 3-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-1H-indole, hydrochloride
from 1-(2,3-dichlorophenyl)piperazine and 3-(4-bromobutyl)-1H-indole. Mp 121–122° C. 1H NMR (DMSO-d6): 1.45–1.55 (m, 2H); 1.65–1.75 (m, 2H); 2.35 (t, 2H); 2.50 (b s, 4H); 2.70 (t, 2H); 2.95 (b s, 4H); 6.95 (t, 1H); 7.05 (t, 1H); 7.10–7.15 (m, 2H); 7.25–7.30 (m, 2H); 7.35 (d, 1H); 7.50 (d, 1H); 10.75 (b s, 1H). Ms m/z: 402 (MH+).

reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | 3-(4-bromobutyl)-1H-indole | BrCCCCC1=CNC2=CC=CC=C12 | C12H14BrN
product | 3-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-1H-indole, hydrochloride | Cl.ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCC1=CNC2=CC=CC=C12 | InChI=1S/C22H25Cl2N3.ClH/c23-19-8-5-10-21(22(19)24)27-14-12-26(13-15-27)11-4-3-6-17-16-25-20-9-2-1-7-18(17)20;/h1-2,5,7-10,16,25H,3-4,6,11-15H2;1H
